US05580981
1-Hydroxy-6-azabenzotriazole.
3-nitro-4-methoxy pyridine is reacted with hydrazine in accordance with the procedure of Example 1 to yield the above-identified compound.

reactant | 3-nitro-4-methoxy pyridine | [N+](=O)([O-])C=1C=NC=CC1OC | C6H6N2O3
reactant | hydrazine | NN | H4N2
product | 1-Hydroxy-6-azabenzotriazole | ON1N=NC2=C1C=NC=C2 | C5H4N4O
